US09233968B1
To a stirring mixture of 6-hydroxyimidazo[1,2-b]pyridazine (3.24 g, 24 mmol, 1 eq) in anhydrous DMF (25 mL) under nitrogen atmosphere was added triethylamine (13.4 mL, 4 eq) and N-phenyl-bis(trifluoromethanesulfonimide) (8.47 g, 1 eq). After 18 hours at room temperature, to the reaction was added triphenylphosphine (157 mg, 0.025 eq), bis(triphenylphosphine)palladium(II) dichloride (1.0 g, 0.06 eq), copper(I) iodide (914 mg, 0.2 eq), and a solution of 4-ethynylaniline (4.342 g, 1.5 eq) in DMF (10 mL) under nitrogen atmosphere. The resulting reaction mixture was heated at 60° C. for four hours. The reaction was then cooled to room temperature, diluted with ethyl acetate, washed sequentially with aqueous ammonium chloride, saturated aqueous sodium bicarbonate, brine, and lastly dried with anhydrous sodium sulfate. The upper solution was decanted, concentrated, the residue mixture was subject to a gradient column chromatography (EtOAc-Hex 1:3 to 3:1). The product fractions were collected, concentrated, and the residue was triturated with EtOAc-Hex (1:5) to give the first batch of as a yellow solid in amount of 1.277 g. The brown solid found as a remainder on top of the syringe column was re-subject to another gradient column chromatography (MeOH-DCM 1:200 to 1:30) to give a second batch of 4-(imidazo[1,2-b]pyridazin-6-ylethynyl)aniline in amount of 829 mg. The total yield was 2.106 g (37%).

reactant | 6-hydroxyimidazo[1,2-b]pyridazine | 24 mmol, 3.24 g, 1 eq | OC=1C=CC=2N(N1)C=CN2 | C6H5N3O
reactant | triethylamine | 13.4 mL, 4 eq | C(C)N(CC)CC | C6H15N
reactant | N-phenyl-bis(trifluoromethanesulfonimide) | 8.47 g, 1 eq | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | triphenylphosphine | 157 mg, 0.025 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-ethynylaniline | 4.342 g, 1.5 eq | C(#C)C1=CC=C(N)C=C1 | C8H7N
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 1.0 g, 0.06 eq | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 914 mg, 0.2 eq | [Cu]I
solvent | MeOH DCM | CO.C(Cl)Cl
product | 4-(imidazo[1,2-b]pyridazin-6-ylethynyl)aniline | N=1C=CN2N=C(C=CC21)C#CC2=CC=C(N)C=C2 | C14H10N4
